US05158956
To a solution of 8-bromo-2-tetralone (3.0 gm, 13.3 mMol) in toluene (25 mL) were added di-n-propylamine (3.5 mL, 26 mMol) and p-toluenesulfonic acid (100 mg, 0.52 mMol). The reaction was heated to reflux, water being collected in a Dean-Stark trap. After four hours the reaction was concentrated in vacuo to give 8-bromo-2-dipropylamino-3,4-dihydronaphthalene as a dark liquid which was immediately dissolved in methanol (50 mL) and acetic acid (5 mL). To this solution was then added sodium borohydride (2.0 gm, 52.9 mMol), and the mixture was stirred 18 hours at room temperature.

reactant | 8-bromo-2-tetralone | 13.3 mMol, 3.0 gm | BrC=1C=CC=C2CCC(CC12)=O | C10H9BrO
reactant | di-n-propylamine | 26 mMol, 3.5 mL | C(CC)NCCC | C6H15N
reactant | p-toluenesulfonic acid | 0.52 mMol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 8-bromo-2-dipropylamino-3,4-dihydronaphthalene | BrC=1C=CC=C2CCC(=CC12)N(CCC)CCC | C16H22BrN
